US05104867
10-(1) (2S, 4S)-2-Carbamoyl-1-ethyl-4-(4-methoxybenzylthio)pyrrolidine
0.362 ml of ethyl iodide and 315 mg of sodium bicarbonate to a solution of 1000 mg of (2S, 4S)-2-carbamoyl-4-(4-methoxybenzylthio)pyrrolidine dissolved in 10 ml of dry dimethylformamide were added, whilst ice-cooling, and the mixture was stirred at room temperature for 5.5 hours. At the end of this time, the reaction mixture was poured into a saturated aqueous solution of sodium bicarbonate and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent was removed by distillation under reduced pressure. The residue was subjected to column chromatography through silica gel (Katayama Chemicals Co., Silica Gel 60K070) and 560 mg of the title compound were obtained as crystals, melting at 124°-125° C., from the fractions eluted with ethyl acetate.

reactant | ethyl iodide | 0.362 ml | C(C)I | C2H5I
reactant | sodium bicarbonate | 315 mg | C([O-])(O)=O.[Na+]
reactant | (2S, 4S)-2-carbamoyl-4-(4-methoxybenzylthio)pyrrolidine | 1000 mg | C(N)(=O)[C@H]1NC[C@H](C1)SCC1=CC=C(C=C1)OC | C13H18N2O2S
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (2S, 4S)-2-Carbamoyl-1-ethyl-4-(4-methoxybenzylthio)pyrrolidine | 560 mg | C(N)(=O)[C@H]1N(C[C@H](C1)SCC1=CC=C(C=C1)OC)CC | C15H22N2O2S
